US07534914B2
STEP 1. Methyl 5-chloro-2-({3-[(methylamino)carbonyl]phenoxy}methyl)benzoate
The title compound was prepared according to the procedure described in step 1 of Example 1 from methyl 2-(bromoethyl)-5-chlorobenzoate and 3-hydroxy-N-methylbenzamide (WO 2003018566):

reactant | methyl 2-(bromoethyl)-5-chlorobenzoate | BrCCC1=C(C(=O)OC)C=C(C=C1)Cl | C10H10BrClO2
reactant | 3-hydroxy-N-methylbenzamide | OC=1C=C(C(=O)NC)C=CC1 | C8H9NO2
product | Methyl 5-chloro-2-({3-[(methylamino)carbonyl]phenoxy}methyl)benzoate | ClC=1C=CC(=C(C(=O)OC)C1)COC1=CC(=CC=C1)C(=O)NC | C17H16ClNO4
